* SPEAKER_8OHM — typical 8Ω hi-fi speaker model with mechanical resonance.
*
* Voice coil DCR + L + parallel RLC резонатор (~70 Hz mechanical
* resonance, Qts ≈ 0.4, sensitivity ~88 dB/W/m). Подходит для AC
* sweep моделирования output stage с реалистичной impedance curve.
*
* Для simple resistive load (без резонанса) см. SPEAKER_8OHM_RES.lib.
*
* subcategory: speaker
* Pins: SP, SN — speaker terminals.
.SUBCKT SPEAKER_8OHM SP SN
* Voice coil: 6.4Ω DC resistance + 0.4 mH inductance.
Rdc SP A 6.4
Lvc A SN 0.4m
* Mechanical resonance (parallel RLC at ~70 Hz, peak ~20Ω):
*   fr = 1/(2π·sqrt(L·C)) = 1/(2π·sqrt(12m·430u)) ≈ 70 Hz.
Rcm SP B 20
Lcm B C 12m
Ccm C SN 430u
.ENDS SPEAKER_8OHM
