* subcategory: single_pole
* Generic single-pole op-amp macromodel (T153 phase-margin reference).
*
* Pins: INP (V+), INN (V-), OUT.
* DC gain A0 = 1e5 V/V (100 dB), dominant pole fp = 10 Hz,
* GBW = A0·fp = 1 MHz, output resistance Rout = 50 ohm.
*
* Topology:
*   G1: VCCS, I = gm·(V(INP)-V(INN)), gm = 1 S.
*   R1: gain-stage load, A0 = gm·R1 = 1·100k = 1e5.
*   C1: dominant-pole cap, fp = 1/(2π·R1·C1) ≈ 10 Hz.
*   E1: unity-gain VCVS buffer.
*   Rout: output impedance.
*
* Not a vendor model (no LM741/OPA134 fit) — pure macromodel for
* cross-validation of phase-margin injection methods (Middlebrook V/I,
* Tian, Rosenstark return-ratio) on a circuit with analytically known
* open-loop response.
.SUBCKT GENERIC_OPAMP INP INN OUT
G1 0 nint INP INN 1
R1 nint 0 100k
C1 nint 0 159.155n
E1 nbuf 0 nint 0 1
Rout nbuf OUT 50
.ENDS GENERIC_OPAMP
