* subcategory: two_pole
* Generic two-pole op-amp macromodel (T153 Phase C.1 reference).
*
* Pins: INP (V+), INN (V-), OUT.
* DC gain A0 = 1e5 V/V (100 dB).
* Dominant pole fp1 = 10 Hz (gm·R1, C1 — same as single-pole sibling).
* Second pole  fp2 ≈ 66.3 kHz (R2·C2 stage between buffer and Rout).
* GBW = A0·fp1 = 1 MHz; output resistance Rout = 50 ohm.
*
* Designed for inverting amp with R_in=1k, R_fb=10k (β=1/11),
* T_loop_DC ≈ Aβ = 9091, unity-gain crossover ≈ 64.7 kHz,
* analytical PM ≈ 45.6° at crossover (45° target ±2°).
*
* Topology:
*   G1:    VCCS, I = gm·(V(INP)-V(INN)), gm = 1 S.
*   R1:    gain-stage load, A0 = gm·R1 = 1·100k = 1e5.
*   C1:    dominant-pole cap, fp1 = 1/(2π·R1·C1) ≈ 10 Hz.
*   E1:    unity-gain VCVS buffer (isolates stages).
*   R2,C2: second pole stage, fp2 = 1/(2π·R2·C2) ≈ 66.3 kHz.
*   E2:    unity-gain VCVS buffer (isolates Rout from C2).
*   Rout:  output impedance.
*
* Not a vendor model — pure macromodel for cross-validation of
* phase-margin injection methods (Middlebrook V/I, Tian, Rosenstark
* return-ratio) on a circuit with analytically known PM.
.SUBCKT GENERIC_OPAMP_2POLE INP INN OUT
G1   0    nint INP INN 1
R1   nint 0    100k
C1   nint 0    159.155n
E1   nbuf 0    nint 0   1
R2   nbuf n2   100k
C2   n2   0    24p
E2   n3   0    n2   0   1
Rout n3   OUT  50
.ENDS GENERIC_OPAMP_2POLE
