* OPT_PP_6K6_8 — Push-Pull output transformer, primary 6.6kΩ : secondary 8Ω,
* center-tapped primary.
*
* Generic typical-class (Hammond 1650F-class, ~50 W):
*   Suitable for EL34 PP, KT88 PP, 6L6 PP топологий.
*
* subcategory: opt
* Pins:
*   P1, P2 — primary halves (anodes of two output tubes).
*   PC    — primary center-tap (B+ supply).
*   S1, S2 — secondary (to load).
.SUBCKT OPT_PP_6K6_8 P1 PC P2 S1 S2
* Half-primary inductance ≈ 30 H each.
Lp1 P1 PC 30
Lp2 PC P2 30
Ls  S1 S2 0.073
* Coupling: оба полупервичных к secondary.
K1 Lp1 Ls 0.999
K2 Lp2 Ls 0.999
K3 Lp1 Lp2 0.999
* DCR per half-primary.
Rp1_dcr P1 PC1 120
Rp2_dcr P2 PC2 120
Rs_dcr  S1 S3  0.3
Cps P1 S1 150p
Cps2 P2 S1 150p
.ENDS OPT_PP_6K6_8
