* 6Ж32П — fitted by `efactory tube fit-from-points` (T031).
*
* Source: Svetlana EF86 datasheet 10/96 (drtube.com/datasheets/ef86-sed1996.pdf); 6Ж32П = Soviet EF86, same characteristics
* IV points extracted: 2026-06-03
* Fitted:              2026-06-03
* RMS residual: 0.057 mA over 53 points
*
* tube_type: pentode
* Pins: P (plate), G2 (screen), G (grid 1), K (cathode).
.SUBCKT 6ZH32P P G2 G K
* Koren-pentode parameters (calibrated on Ayumi baseline):
* MU=21.7436 EX=2.7884 KG1=62917.8709 KG2=314589.3544 KP=146.6925 KVB=10.2958
E1 7 0 VALUE={V(G2,K)/146.6925*LN(1+EXP(146.6925*(1/21.7436+V(G,K)/V(G2,K))))}
G1 P K VALUE={(sgn(V(7))*pwr(abs(V(7)),2.7884)+sgn(V(7))*pwr(abs(V(7)),2.7884))/62917.8709 * ATAN(V(P,K)/10.2958)}
G2 G2 K VALUE={(sgn(V(7))*pwr(abs(V(7)),2.7884)+sgn(V(7))*pwr(abs(V(7)),2.7884))/314589.3544}
* Inter-electrode capacitances — typical pentode defaults
* (см. spec T031 §7 Out of Scope: per-tube extraction).
C1 G K 10.0p
C2 G P 1.0p
C3 P K 10.0p
RGI G K 1MEG
.ENDS 6ZH32P
