* subcategory: tl072_macromodel
* TL072 — Texas Instruments JFET-input low-noise dual op-amp.
*
* T027 Phase D bootstrap — minimal two-pole macromodel matching TL072
* datasheet specs:
*   A0 (DC open-loop gain) = 2e5 V/V (106 dB)
*   GBW (gain-bandwidth product) = 3 MHz
*   fp1 (dominant pole) ≈ 15 Hz (= GBW/A0)
*   fp2 (second pole) ≈ 5 MHz (well above GBW для stability)
*   Rout ≈ 200 Ω (JFET output stage)
*   Slew rate ≈ 13 V/µs (not modeled — small-signal only)
*   I_bias_in ≈ 50 pA (JFET input — modelled as zero, negligible
*                       для most circuits).
*
* Pins: INP (V+), INN (V-), OUT. V+/V- supply pins не моделированы
* (idealized — same convention as GENERIC_OPAMP_2POLE).
*
* Topology (same pattern as GENERIC_OPAMP_2POLE):
*   G1:    VCCS, I = gm·(V(INP)-V(INN)), gm = 1 S.
*   R1:    gain-stage load, A0 = gm·R1 = 1·200k = 2e5.
*   C1:    dominant-pole cap, fp1 = 1/(2π·R1·C1) ≈ 15 Hz.
*   E1:    unity-gain VCVS buffer (isolates stages).
*   R2,C2: second pole stage, fp2 = 1/(2π·R2·C2) ≈ 5 MHz.
*   E2:    unity-gain VCVS buffer (isolates Rout from C2).
*   Rout:  output impedance (JFET).
*
* For Phase D Sallen-Key low-pass @ f_c=1 kHz: GBW (3 MHz) ≫ f_c
* (3000×), op-amp behaves ideally enough — single-pole error
* contribution < 0.03 dB на f_c.
.SUBCKT TL072 INP INN OUT
G1   0    nint INP INN 1
R1   nint 0    200k
C1   nint 0    53.05n
E1   nbuf 0    nint 0   1
R2   nbuf n2   1k
C2   n2   0    31.83p
E2   n3   0    n2   0   1
Rout n3   OUT  200
.ENDS TL072
