* Synthetic ambiguous 3-pin SUBCKT — no Q/M/tube cards inside.
* Test fixture for ClassificationAmbiguousError.
.SUBCKT UNKNOWN3 A B C
R1 A B 1K
R2 B C 1K
.ENDS UNKNOWN3
