* Synthetic dual op-amp pair — T030 multi-SUBCKT split fixture.
.SUBCKT OPAONE VCC VEE INP INM OUT
R1 INP INM 1MEG
EAMP OUT 0 INP INM 1E5
.ENDS OPAONE

.SUBCKT OPATWO VCC VEE INP INM OUT
R1 INP INM 1MEG
EAMP OUT 0 INP INM 1E5
.ENDS OPATWO
