* Synthetic single op-amp .SUBCKT — T030 test fixture.
* vendor: ti
* subcategory: full_vendor
.SUBCKT OPAGEN VCC VEE INP INM OUT
* Minimal SUBCKT body — not a real op-amp, just enough cards to parse.
R1 INP INM 1MEG
R2 INM OUT 100K
EAMP OUT 0 INP INM 1E5
.ENDS OPAGEN
